US07214681B2
LDA (24 mL of a 1.8M solution in n-C7H16-THF-PhEt, 43.3 mmol) was added dropwise to a stirred solution of DMPU (19 mL, 153.0 mmol) in anhydrous THF (100 mL) at −78° C. After 30 min, a solution of ethyl (4-methanesulfonylphenyl)-acetate (Preparation 15, 5.00 g, 20.6 mmol) in anhydrous THF (42 mL) was added dropwise. The mixture was stirred further for 1 h, before being treated dropwise with a solution of tetrahydropyran-4-carboxaldehyde (2.36 g, 20.6 mmol) in anhydrous THF (25 mL). After being allowed to warm up to 20° C. over 16 h, the reaction was quenched with saturated aqueous NH4Cl (210 mL). The THF was removed under reduced pressure, then the remainder was extracted with EtOAc (3×250 mL). The combined EtOAc extracts were dried (MgSO4), filtered, and concentrated. Column chromatography (IH-EtOAc, 7:3) furnished (E)-ethyl 2-(4-methanesulfonylphenyl)-3-(tetrahydropyran-4-yl)acrylate: m/z (ES+)=356.2 [M+NH4]+. A solution of this ester (6.46 g, 19.1 mmol) in MeOH (30 mL) and 1M NaOH (40 mL, 40.0 mmol) was heated under reflux for 1 h. On cooling, the mixture was washed with EtOAc. The aqueous phase was acidified with 1M HCl, before being extracted with EtOAc. The combined organic extracts were dried (MgSO4). Filtration and solvent evaporation afforded the title compound: m/z (ES+)=621.3 [2M+H]+.

reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | DMPU | 153.0 mmol, 19 mL | CN1CCCN(C1=O)C | C6H12N2O
reactant | ethyl (4-methanesulfonylphenyl)-acetate | 20.6 mmol, 5.00 g | CS(=O)(=O)C1=CC=C(C=C1)CC(=O)OCC | C11H14O4S
reactant | tetrahydropyran-4-carboxaldehyde | 20.6 mmol, 2.36 g | O1CCC(CC1)C=O | C6H10O2
solvent | n-C7H16 THF PhEt | CCCCCCC.C1CCOC1.C1(=CC=CC=C1)CC
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 42 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | (E)-ethyl 2-(4-methanesulfonylphenyl)-3-(tetrahydropyran-4-yl)acrylate | CS(=O)(=O)C1=CC=C(C=C1)/C(/C(=O)OCC)=C\C1CCOCC1 | C17H22O5S
